US04613609
3-Methyl-1-[2-[4-((methylsulfonyl)amino)phenyl]-2-oxoethyl]-1H-imidazolium chloride
Heat a mixture of 160 g (0.646 mole) of N-[4-(2- chloro-1-oxoethyl)phenyl]methanesulfonamide, 55.7 g (0.678 mole) of 1-methyl-1H-imidazole and 2.1 L of acetonitrile at reflux for about 16 hours. Cool the mixture to room temperature and collect the solid and wash with 2 L of acetonitrile. Drying provides the title compound, which may be recrystallized from aqueous ethanol.

reactant | N-[4-(2- chloro-1-oxoethyl)phenyl]methanesulfonamide | 0.646 mole, 160 g | ClCC(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C9H10ClNO3S
reactant | 1-methyl-1H-imidazole | 0.678 mole, 55.7 g | CN1C=NC=C1 | C4H6N2
solvent | acetonitrile | 2.1 L | C(C)#N | C2H3N
product | 3-Methyl-1-[2-[4-((methylsulfonyl)amino)phenyl]-2-oxoethyl]-1H-imidazolium chloride | [Cl-].CN1C[NH+](C=C1)CC(=O)C1=CC=C(C=C1)NS(=O)(=O)C | InChI=1S/C13H17N3O3S.ClH/c1-15-7-8-16(10-15)9-13(17)11-3-5-12(6-4-11)14-20(2,18)19;/h3-8,14H,9-10H2,1-2H3;1H
